US07893099B2
To a suspension of (1R,2R)-2-(cyanomethyl-carbamoyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester (2.7 mmol) in THF (12 ml) was added DMF (1 ml), the solution was cooled to 0° C., sodium borohydride (3.3 mmol) was added and stirring was continued for 2 h. The mixture was partitioned between 1N aqueous HCl and ethyl acetate, the organic layer was dried, evaporated and the residue chromatographed on silica using dichloromethane/MeOH (97:3) to give in the first fraction (1R,2R,4R)-2-(cyanomethyl-carbamoyl)-4-hydroxy-cyclopentanecarboxylic acid ethyl ester as a white solid. MS: 241.4 (M+H)+. The second fraction contained the desired isomer,

reactant | (1R,2R)-2-(cyanomethyl-carbamoyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester | 2.7 mmol | C(C)OC(=O)[C@H]1[C@@H](CC(C1)=O)C(NCC#N)=O | C11H14N2O4
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | sodium borohydride | 3.3 mmol | [BH4-].[Na+]
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | (1R,2R,4R)-2-(cyanomethyl-carbamoyl)-4-hydroxy-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1[C@@H](C[C@H](C1)O)C(NCC#N)=O | C11H16N2O4
